US08026234B2
Ethyl 2,2-difluoro-3-(isopropylamino)propanoate:
Ethyl 3-(dibenzylamino)-2,2-difluoropropanoate (5.00 g, 15.0 mmol) was dissolved in EtOH (25 mL) and trifluoroacetic acid was added (1.15 mL, 15.5 mmol). To this mixture, Pd(OH)2/C (20%, 250 mg) was added, and the reaction mixture was hydrogenated at 60 psi overnight. The mixture was filtered through a pad of Celite, the Celite pad was washed with ethanol and the filtrate was concentrated in vacuo. The residue was dissolved in THF (65 mL) and to the solution was added acetone (0.872 g, 15.0 mmol) and sodium acetate (1.23 g, 15.0 mmol). The reaction mixture was cooled to 0° C. and NaBH(OAc)3 (4.77 g, 22.5 mmol) was added in portions over 5 min. The mixture was stirred vigorously at room temperature overnight and then was poured into a cold (0° C.) brine solution (100 mL). The pH was adjusted to 12.5 with NaOH (50%) and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic extract were dried (MgSO4) and concentrated in vacuo to afford the title compound as a clear light yellow oil (1.54 g, 54%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.04 (d, J=6.32 Hz, 6H) 1.36 (t, J=7.20 Hz, 3H) 2.73-2.94 (m, 1H) 3.20 (t, J=13.52 Hz, 2H) 4.34 (q, J=7.24 Hz, 2H)

reactant | Ethyl 3-(dibenzylamino)-2,2-difluoropropanoate | 15.0 mmol, 5.00 g | C(C1=CC=CC=C1)N(CC(C(=O)OCC)(F)F)CC1=CC=CC=C1 | C19H21F2NO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetone | 15.0 mmol, 0.872 g | CC(=O)C | C3H6O
reactant | sodium acetate | 15.0 mmol, 1.23 g | C(C)(=O)[O-].[Na+]
reactant | NaBH(OAc)3 | 22.5 mmol, 4.77 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | Pd(OH)2/C | 250 mg | [OH-].[OH-].[Pd+2]
product | Ethyl 2,2-difluoro-3-(isopropylamino)propanoate | 1.54 g, 54% | FC(C(=O)OCC)(CNC(C)C)F | C8H15F2NO2
